US06921763B2
4-(Trifluoromethoxy)-1-benzenecarbonyl chloride (38 mg, 0.170 mmol) in dichloromethane (0.3 mL) was added to a solution of 3-(4-amino-3-methoxyphenyl)-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (60 mg, 0.17 mmol) in pyridine (1.2 mL) at 0° C. After 5 minutes, the ice-water bath was removed and the reaction mixture was stirred at room temperature for 1 hours then, more 4-(trifluoromethyl)-1-benzenecarbonyl chloride (19 mg, 0.085 mmol) was added. After 2 hours, the solvent was evaporated and the residue was purified by flash column chromatography using dichloromethane/methanol (95:5 to 70:30) as mobile phase to give N1-{4-[4-amino-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-4-(trifluoromethoxy)benzamide (70 mg, 76%). 1H NMR (CDCl3) δ 2.06 (d, J=11.79 Hz, 2H), 2.28 (m, 2H), 2.40 (s, 3H), 2.50 (m, 2H), 3.07 (d, J=10.8 Hz, 2H), 4.02 (s, 3H), 4.80 (m, 1H), 5.71 (s, 2H), 7.27 (m, 2H), 7.36 (d, J=8.20 Hz, 2H), 7.98 (d, J=6.20 Hz, 2H), 8.37 (s, 1H), 8.59 (s, 1), 8.67 (d, J=8.55 Hz, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 0.8 mL/min.): MH+=542.3, Rt=1.98 min.

reactant | 4-(Trifluoromethoxy)-1-benzenecarbonyl chloride | 0.170 mmol, 38 mg | FC(OC1=CC=C(C=C1)C(=O)Cl)(F)F | C8H4ClF3O2
reactant | 3-(4-amino-3-methoxyphenyl)-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.17 mmol, 60 mg | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C)OC | C18H23N7O
reactant | 4-(trifluoromethyl)-1-benzenecarbonyl chloride | 0.085 mmol, 19 mg | FC(C1=CC=C(C=C1)C(=O)Cl)(F)F | C8H4ClF3O
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
product | N1-{4-[4-amino-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-4-(trifluoromethoxy)benzamide | 70 mg, 76% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)OC)C2CCN(CC2)C | C26H26F3N7O3
